US07851469B2
1-(6-{4-[3-(4-Fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-pyridin-3-yl)-ethanone
As described for Example 24, 3-(4-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-trifluoromethyl-isoxazole (120 mg, 0.4 mmol), using 1-(6-chloro-3-pyridinyl)-1-ethanone instead of 4-fluoroacetophenone, was converted to the title compound (64 mg, 38%) which was obtained as a light yellow solid. MS: m/e=417.2 [M+H]+.

reactant | 3-(4-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-trifluoromethyl-isoxazole | 0.4 mmol, 120 mg | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CNC1)C(F)(F)F | C13H7F4N3O
reactant | 1-(6-chloro-3-pyridinyl)-1-ethanone | ClC1=CC=C(C=N1)C(C)=O | C7H6ClNO
product | 1-(6-{4-[3-(4-Fluoro-phenyl)-5-trifluoromethyl-isoxazol-4-yl]-imidazol-1-yl}-pyridin-3-yl)-ethanone | 64 mg, 38% | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=C(C=N1)C(C)=O)C(F)(F)F | C20H12F4N4O2
